US09126982B2
3,5-diamino-6-bromo-N-[(methylsulfanyl)methanimidoyl]pyrazine-2-carboxamide
To NaOH (1 mol/l in water; 30 mL; 30 mmol) is added S-methylisothiourea sulphate (5.42 g; 19.5 mmol. The mixture is stirred until complete solution is achieved. TBME/THF (1:1; 100 mL) and then 1-(2-methyl-2-butyl-carbamoyl)prop-1-en-2-yl 3,5-diamino-6-bromopyrazine-2-carboxylate (Intermediate B.2; 7.52 g; 19.5 mmol) are added and the mixture is stirred at r.t. over night, then water (100 mL) is added. The precipitate formed is filtered off with suction, washed with THF/water (1:2) and then dried at 50° C. to yield the title compound.

reactant | NaOH | 30 mmol, 1 mol/l, 30 mL | [OH-].[Na+]
reactant | S-methylisothiourea sulphate | S(=O)(=O)(O)O.CSC(N)=N
reactant | TBME THF | 100 mL | CC(C)(C)OC.C1CCOC1
reactant | 1-(2-methyl-2-butyl-carbamoyl)prop-1-en-2-yl 3,5-diamino-6-bromopyrazine-2-carboxylate | 19.5 mmol, 7.52 g | NC=1C(=NC(=C(N1)N)Br)C(=O)OC(=CC(NC(C)(CC)C)=O)C | C14H20BrN5O3
solvent | water | 100 mL | O | H2O
product | 3,5-diamino-6-bromo-N-[(methylsulfanyl)methanimidoyl]pyrazine-2-carboxamide | NC=1C(=NC(=C(N1)N)Br)C(=O)NC(=N)SC | C7H9BrN6OS
